US08349880B2
Step M (8): Methanolic ammonia (2.0 M, 5 mL, 10 mmol) was added to a flask charged with 4-chloro-1-(2-fluoro-4-isothiocyanato-6-methoxyphenyl)-1H-imidazole (230 mg, 0.811 mmol). After 2 h, the reaction mixture was concentrated in vacuo to afford 1-(4-(4-chloro-1H-imidazol-1-yl)-3-fluoro-5-methoxyphenyl)thiourea (244 mg, 100% yield). LC-MS (M+H)+ 301.1.

reactant | ammonia | 10 mmol, 2.0 M, 5 mL | N | H3N
reactant | 4-chloro-1-(2-fluoro-4-isothiocyanato-6-methoxyphenyl)-1H-imidazole | 0.811 mmol, 230 mg | ClC=1N=CN(C1)C1=C(C=C(C=C1OC)N=C=S)F | C11H7ClFN3OS
product | 1-(4-(4-chloro-1H-imidazol-1-yl)-3-fluoro-5-methoxyphenyl)thiourea | 244 mg, 100% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1OC)NC(=S)N)F | C11H10ClFN4OS
